US06706663B2
Preparation of Methyl [(2-[5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl]-3-thienyl]oxy]acetate
To a mixture of 3-[3-(3-hydroxy-2-thienyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil(0.580 g, 1.36 mmol) in dimethylformamide is added potassium carbonate (0.230 g, 1.66 mmol). The resultant mixture is stirred 30 minutes and treated with methyl bromoacetate (0.230 g, 1.50 mmol). The mixture is stirred over a weekend at room temperature and poured into water. Filtration and drying affords the title compound as an off-white solid (0.550 g, 81.4%, mp 73-79° C.) which is identified by NMR spectral analysis.

reactant | 3-[3-(3-hydroxy-2-thienyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 1.36 mmol, 0.580 g | OC1=C(SC=C1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C17H10F3N3O3S2
reactant | potassium carbonate | 1.66 mmol, 0.230 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 1.50 mmol, 0.230 g | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl [(2-[5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl]-3-thienyl]oxy]acetate | 0.550 g, 81.4% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C=2SC=CC2OCC(=O)OC)C1)=O | C20H14F3N3O5S2
